US04440567
Preparation of -Cyanobenzyl 3,6-Dichloro-2-Methoxybenzoate
Benzaldehyde cyanohydrin (13.3 grams; 0.100 moles), 3,5-lutidine (11 grams) and methylene chloride (100 ml) were placed in a 500 ml. 3-necked glass reaction flask equipped with a mechanical stirrer, thermometer, condenser and addition funnel. This mixture was cooled to 10° C. by means of an ice bath and 2-methoxy-3,6-dichlorobenzoic acid chloride (23.9 grams; 0.10 moles) was added dropwise with the temperature of the mixture maintained at 5°-10° C. After the addition of the acid chloride was completed, the reaction mixture was stirred for an additional three hours at room temperature. After the reaction was completed, the mixture was washed three times with water, dried over anhydrous magnesium sulfate, filtered and concentrated by distillation. The residue was heated to a temperature of 150° C. under vacuum from a vacuum pump. Then the residue was dissolved in cyclohexane, treated with nuchar, filtered and stripped dry to give an oil.

reactant | Benzaldehyde cyanohydrin | 0.100 moles, 13.3 grams | C1=CC=C(C=C1)C(C#N)O | C8H7NO
reactant | 3,5-lutidine | 11 grams | N1=CC(=CC(=C1)C)C | C7H9N
reactant | 2-methoxy-3,6-dichlorobenzoic acid chloride | 0.10 moles, 23.9 grams | COC1=C(C(=O)Cl)C(=CC=C1Cl)Cl | C8H5Cl3O2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Cyanobenzyl 3,6-Dichloro-2-Methoxybenzoate | ClC=1C(=C(C(=O)OC(C2=CC=CC=C2)C#N)C(=CC1)Cl)OC | C16H11Cl2NO3
